US07285545B2
Triflic anhydride (4.14 mL, 24.6 mmol) was added dropwise to a solution of 4-tert-butyl-2-nitrophenol (4.00 g, 20.5 mmol) and pyridine (2.16 mL, 26.7 mmol) in methylene chloride (50 mL) at 0° C. The yellow solution was stirred 0.25 h at 0° C., poured onto saturated aqueous NaHCO3 and extracted with methylene chloride. The combined extracts were washed with saturated aqueous NaHCO3, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by filtration through a plug of silica-gel (methylene chloride) to provide trifluoro-methanesulfonic acid 4-tert-butyl-2-nitro-phenyl ester (5.82 g, 87%) as a pale yellow oil which was utilized without further purification.

reactant | Triflic anhydride | 24.6 mmol, 4.14 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 4-tert-butyl-2-nitrophenol | 20.5 mmol, 4.00 g | C(C)(C)(C)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H13NO3
reactant | pyridine | 26.7 mmol, 2.16 mL | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-tert-butyl-2-nitro-phenyl ester | 5.82 g, 87% | C(C)(C)(C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C11H12F3NO5S
